US05607947
(iii) 3-(2-Tetrahydropyranyloxyethyl)-3-(3,4-dichlorophenyl)pyrrolidine
The 3-(2-tetrahydropyranyloxyethyl)-3-(3,4-dichlorophenyl)-2-pyrrolidinone (3.9 grams prepared as described supra) is dissolved in 50 ml of tetrahydrofuran and the solution is added to a suspension of 0.9 grams of lithium aluminum hydride in 5 ml of tetrahydrofuran heated to 60° C. The reaction mixture is then heated for one hour at 60° C. and then cooled. To the resulting mixture 1 ml of water, 1 ml of 4N sodium hydroxide, and 3 ml of water are added sequentially. The insoluble portion is removed by filtration and the filtrate is concentrated in vacuo. The residue is taken up in diethyl ether, dried over magnesium sulfate, and concentrated under vacuum to give the desired intermediate.

reactant | 3-(2-tetrahydropyranyloxyethyl)-3-(3,4-dichlorophenyl)-2-pyrrolidinone | 3.9 grams | O1C(CCCC1)OCCC1(C(NCC1)=O)C1=CC(=C(C=C1)Cl)Cl | C17H21Cl2NO3
reactant | lithium aluminum hydride | 0.9 grams | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 1 ml | O | H2O
reactant | sodium hydroxide | 4N, 1 ml | [OH-].[Na+]
reactant | water | 3 ml | O | H2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 3-(2-Tetrahydropyranyloxyethyl)-3-(3,4-dichlorophenyl)pyrrolidine | O1C(CCCC1)OCCC1(CNCC1)C1=CC(=C(C=C1)Cl)Cl | C17H23Cl2NO2
